US07786310B2
(3-Allyl-3-isobutyl-isoxazolidin-5-yl)-methanol (S1)
Procedure for the N-alkylation of S2: To a solution of isoxazolidine S1 (2.29 g, 11.49 mmol, 1 eq) in THF (109 mL) were added DMAP (0.07 g, 0.58 mmol, 0.05 eq), Et3N (2.24 mL, 16.09 mmol, 1.4 eq), and TBSOTf (3.70 mL, 16.09 mmol, 1.4 eq) to protect the primary alcohol in 97% yield following purification by flash chromatography (9:1 hexanes/EtOAc). To a solution of TBS-protected isoxazolidine S2 (0.17 g, 0.53 mmol, 1 eq) in DMF (2 mL) was added i-Pr2NEt (0.28 mL, 1.59 mmol, 3 eq) and BnBr or tert-butylbromoacetate (2.64 mmol, 5 eq). The reaction mixture was irradiated in a 1000 W microwave (5×15 s) @ 30% power with mixing between each interval. Once the reaction was complete by TLC analysis, the reaction was diluted with H2O (15 mL), and extracted with Et2O (3×15 mL). The combined organic extracts were washed with H2O (1×20 mL), brine (1×20 mL), dried over Na2SO4, filtered, and concentrated in vacuo.

reactant | isoxazolidine | O1NCCC1 | C3H7NO
reactant | Et3N | 16.09 mmol, 2.24 mL, 1.4 eq | CCN(CC)CC | C6H15N
reactant | TBSOTf | 16.09 mmol, 3.70 mL, 1.4 eq | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | i-Pr2NEt | 1.59 mmol, 0.28 mL, 3 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | BnBr | C1=CC=C(C=C1)CBr | C7H7Br
reactant | tert-butylbromoacetate | 2.64 mmol, 5 eq | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | THF | 109 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.58 mmol, 0.07 g, 0.05 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | H2O | 15 mL | O | H2O
product | (3-Allyl-3-isobutyl-isoxazolidin-5-yl)-methanol | C(C=C)C1(NOC(C1)CO)CC(C)C | C11H21NO2
